US06537948B1
To a mixed solution of 1.2 g of an iron powder, 5 ml of acetic acid and 0.5 ml of water was added a solution of 0.93 g of 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-(methoxycarbonyl)methoxypyridine in 4 ml of acetic acid dropwise while maintaining the temperature of the reaction solution at 35° C. or lower. After completion of the addition, the mixture was stirred for 2 hours, then, filtrated through Celite, and concentrated. The residue was diluted with water, and extracted with ethyl acetate. The organic layer was mixture was washed with saturated aqueous sodium bicarbonate solution, then saturated saline, dried over anhydrous magnesium sulfate, and concentrated. Then, the resulted residue was subjected to silica gel chromatography to obtain 0.83 g of 5-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine.

reactant | water | 0.5 ml | O | H2O
reactant | 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-(methoxycarbonyl)methoxypyridine | 0.93 g | FC1=CC(=C(OC=2C=CC(=NC2)OCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C20H14F4N4O8
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 1.2 g | [Fe] | Fe
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxypyridine | 0.83 g | NC1=C(OC=2C=CC(=NC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H16F4N4O6
